* Z:\mnt\design.r\spice\examples\3755.asc
XU1 N007 N007 N005 N013 N015 N004 N003 IN N008 N006 N016 N009 N011 N002 N012 N010 0 LT3755
C1 N003 0 4.7µ
M§Q1 N001 N006 N008 N008 Si7850DP
R1 N008 0 10m
L1 IN N001 22µ
R2 N002 N009 1Meg
R3 N009 0 23.7K
D1 N001 N002 MBRS360
R4 N002 N011 .1
C2 N002 0 4.7µ
V1 IN 0 10
R5 IN N004 1Meg
R6 N004 0 185K
C3 N012 0 1000p
M§Q2 N014 N016 0 0 Si7850DP
D2 N011 N014 LXK2-PW14 N=10
C4 N013 0 .001µ
R7 N015 0 28.7K
R8 N003 N005 100K
R9 IN N010 332K
R10 N010 0 40.2K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3755.sub
.backanno
.end
